US09227963B2
3,5-dimethyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1-(tricyclo[3.3.1.13,7]dec-1-ylmethyl)-1H-pyrazole
To a solution of 1-adamantanemethanol (0.090 g), 3,5-dimethyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole (0.160 g) and cyanomethylenetributylphosphorane (0.215 g) were added and stirred together in toluene (2 mL) at room temperature. After stirring overnight the reaction was loaded directly onto silica gel and eluted using a gradient of 2% to 20% ethyl acetate/hexanes to provide the title compound.

reactant | 1-adamantanemethanol | 0.090 g | C12(CC3CC(CC(C1)C3)C2)CO | C11H18O
reactant | 3,5-dimethyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | 0.160 g | CC1=NNC(=C1B1OC(C(O1)(C)C)(C)C)C | C11H19BN2O2
reactant | cyanomethylenetributylphosphorane | 0.215 g | C(#N)C=P(CCCC)(CCCC)CCCC | C14H28NP
solvent | toluene | 2 mL | C1(=CC=CC=C1)C | C7H8
product | 3,5-dimethyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1-(tricyclo[3.3.1.13,7]dec-1-ylmethyl)-1H-pyrazole | CC1=NN(C(=C1B1OC(C(O1)(C)C)(C)C)C)CC12CC3CC(CC(C1)C3)C2 | C22H35BN2O2
